US09085555B2
B. 2-Chloro-3-fluoro-pyridine-4-carbaldehyde
A mixture of (2-chloro-3-fluoro-pyridin-4-yl)-methanol (0.9 g, 5.76 mmol) and activated MnO2 (5.76 g, 66.2 mmol) in CH2Cl2 was stirred at RT overnight. The solid was filtered off and washed with CH2Cl2, and the filtrate was concentrated under mildly reduced pressure to afford the title compound as a colorless liquid. MS (LC/MS): 191.0 [M+MeOH]+; tR (HPLC conditions b): 2.02 min.

reactant | (2-chloro-3-fluoro-pyridin-4-yl)-methanol | 5.76 mmol, 0.9 g | ClC1=NC=CC(=C1F)CO | C6H5ClFNO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 66.2 mmol, 5.76 g | O=[Mn]=O
product | 2-Chloro-3-fluoro-pyridine-4-carbaldehyde | ClC1=NC=CC(=C1F)C=O | C6H3ClFNO
